US05496843
1) 3-tert-Butoxycarbonylmethoxy-4-nitrotoluene
A mixture of 3-methyl-6-nitrophenol (30.62 g, 200 mmol) and tert-butyl bromacetate (46.8 g, 240 mmol) in acetonitrile (700 mL) in the presence of potassium carbonate (69.1 g, 500 mmol) was refluxed for 2 h. Inorganic materials were removed by filtration and the filtrate was concentrated. The residue was diluted with ethyl acetate, washed with brine, dried over magnesium sulfate, and extensively concentrated in vacuo to give 54.2 g of the title compound (quant): 1H NMR (CDCl3) δ7.82 (d, 1H, J=8.3 Hz), 6.87 (d, 1 H, J=8.3 Hz), 6.74 (s, 1H), 4.65 (s, 2H), 2.40 (s, 3H), 1.47 (s, 9H).

reactant | 3-methyl-6-nitrophenol | 200 mmol, 30.62 g | CC=1C=C(C(=CC1)[N+](=O)[O-])O | C7H7NO3
reactant | tert-butyl bromacetate | 240 mmol, 46.8 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 500 mmol, 69.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
product | 3-tert-Butoxycarbonylmethoxy-4-nitrotoluene | 54.2 g | C(C)(C)(C)OC(=O)COC=1C=C(C=CC1[N+](=O)[O-])C | C13H17NO5
